US05237063
4-Chlorodifluoromethoxy-2-methylamino-6-methoxypyrimidine
4.7 g (0.026 mol) of 30% strength sodium methylate were added over the course of 10 minutes to 6.0 g (0.0263 mol) of 4-chlorodifluoromethoxy-6-fluoro-2-methylaminopyrimidine in 100 ml of methanol while stirring st 0° C. The mixture was stirred at 0° C. and at 25° C. for 1 hour each and worked up as usual, resulting in 6.3 g (100% of theory) of the title compound of melting point 49°-53° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 4-chlorodifluoromethoxy-6-fluoro-2-methylaminopyrimidine | 0.0263 mol | ClC1=NC(=NC(=C1OC(F)F)F)NC | C6H5ClF3N3O
solvent | methanol | 100 ml | CO | CH4O
product | 4-Chlorodifluoromethoxy-2-methylamino-6-methoxypyrimidine | ClC1=NC(=NC(=C1OC(F)F)OC)NC | C7H8ClF2N3O2
